US05208240
Preparation of (-)-N-[[[4-[2-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine
Dissolve (-)-N-[[[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine, t-butyl ester (5.55 g, 10 mmol) in 4N hydrochloric acid in dioxane (25 mL, 100 mmol) and stir for several hours. Evaporate the solvent in vacuo and purify by ion-exchange chromatography to give the title compound.

reactant | (-)-N-[[[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine, t-butyl ester | 10 mmol, 5.55 g | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(C=C1)OCC(=O)N[C@@H](C)C(=O)OC(C)(C)C)C)CCC)=O | C29H41N5O6
reactant | dioxane | 100 mmol, 25 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 4N | Cl | ClH
product | (-)-N-[[[4-[2-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(C=C1)OCC(=O)N[C@@H](C)C(=O)O)C)CCC)=O | C25H33N5O6
